US04368066
A mixture of 12.7 g (0.06 mole) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one, 10.8 g (0.06 mole) of 2,4-dichlorobenzaldehyde, 1 g of piperidine, 0.5 g of acetic acid and 150 ml of toluene is stirred for 10 hours under reflux, with elimination of water. The mixture is then cooled, washed with three times 80 ml of water, dried over sodium sulfate and concentrated under reduced pressure. The residue is dissolved in 250 ml of acetonitrile and the solution is decolorized with 1 g of animal charcoal at 40° C., concentrated to 40 ml and cooled to 0° C. The colorless precipitate is filtered off, washed with 40 ml of ether and dried. 18.4 g (83.3%) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(2,4-dichlorophenyl)-propen-1-one, of melting point 133°-135° C., are obtained.

reactant | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-ethan-1-one | 0.06 mole, 12.7 g | CC1(COCOC1)C(CN1N=CN=C1)=O | C9H13N3O3
reactant | 2,4-dichlorobenzaldehyde | 0.06 mole, 10.8 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | piperidine | 1 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.5 g | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(2,4-dichlorophenyl)-propen-1-one | 18.4 g, 83.3% | CC1(COCOC1)C(C(=CC1=C(C=C(C=C1)Cl)Cl)N1N=CN=C1)=O | C16H15Cl2N3O3
